US04623742
2-[2-(bis-(2-chloroethyl)-amino)-6-methyl-2-oxo-tetrahydro-2H-1,3,2-oxazaphosphorin-4-yl-thio]-ethanesulphonic acid cyclohexylammonium salt
1.45 g (5 mmol) of 2-(bis-(2-chloroethyl)-amino)-4-hydroxy-6-methyl-tetrahydro-2H-1,3,2-oxazaphosphorin-2-oxide and 1.2 g (5 mmol) of cyclohexylammonium-2-mercaptoethanesulphonate were dissolved in 5 ml of water and in 5 ml of acetone, acidified with trichloroacetic acid and left to stand for 20 hours at 0° C. The mixture was then filtered, the filtrate was carefully concentrated under vacuum, the residue was taken up twice in acetone and was concentrated. The residue was then dissolved in acetone, precipitated with ether, and washed with ether and dried.

reactant | 2-(bis-(2-chloroethyl)-amino)-4-hydroxy-6-methyl-tetrahydro-2H-1,3,2-oxazaphosphorin-2-oxide | 5 mmol, 1.45 g | ClCCN(P1(OC(CC(N1)O)C)=O)CCCl | C8H17Cl2N2O3P
reactant | cyclohexylammonium 2-mercaptoethanesulphonate | 5 mmol, 1.2 g | C1(CCCCC1)[NH3+].SCCS(=O)(=O)[O-]
reactant | trichloroacetic acid | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
solvent | water | 5 ml | O | H2O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 2-[2-(bis-(2-chloroethyl)-amino)-6-methyl-2-oxo-tetrahydro-2H-1,3,2-oxazaphosphorin-4-yl-thio]-ethanesulphonic acid cyclohexylammonium salt | C1(CCCCC1)[NH3+].ClCCN(P1(OC(CC(N1)SCCS(=O)(=O)[O-])C)=O)CCCl | InChI=1S/C10H21Cl2N2O5PS2.C6H13N/c1-9-8-10(21-6-7-22(16,17)18)13-20(15,19-9)14(4-2-11)5-3-12;7-6-4-2-1-3-5-6/h9-10H,2-8H2,1H3,(H,13,15)(H,16,17,18);6H,1-5,7H2
